US07902252B2
2.23. Synthesis of 4-(4-isopropylbenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (33)
The title compound was synthesized from methyl 4-(4-isopropylbenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate and lithium hydroxide monohydrate according to General Procedure 7. Silica gel was added, the solvent stripped off and the silica gel-imbedded material was purified by flash chromatography (0-80% EtOAc/Heptane) to give 4-(4-isopropylbenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (33) as a light yellow solid.

reactant | methyl 4-(4-isopropylbenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | C(C)(C)C1=CC=C(CC2CCC=3NC(=CC32)C(=O)OC)C=C1 | C19H23NO2
reactant | lithium hydroxide monohydrate | O.[OH-].[Li+]
product | 4-(4-isopropylbenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | C(C)(C)C1=CC=C(CC2CCC=3NC(=CC32)C(=O)O)C=C1 | C18H21NO2
